US08470841B2
1a. 2-Chloro-5-cyclopentyloxypyridine
Cyclopentyl bromide (690.3 mg, 4.63 mmol), 2-chloro-5-hydroxypyridine (500 mg, 3.86 mmol) and cesium carbonate (1.51 g, 4.63 mmol) were stirred in 30 ml of DMF at room temperature for 3 h. The reactants had not yet completely reacted. 50% of each of cyclopentyl bromide and cesium carbonate were added, and stirring was continued for 2 h. The reaction mixture was concentrated in vacuo, and the residue was taken up in ethyl acetate and water. The organic phase was separated off and concentrated. Yield: 737 mg (97%), M+H+: 198.08.

reactant | Cyclopentyl bromide | 4.63 mmol, 690.3 mg | C1(CCCC1)Br | C5H9Br
reactant | 2-chloro-5-hydroxypyridine | 3.86 mmol, 500 mg | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | cesium carbonate | 4.63 mmol, 1.51 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-5-cyclopentyloxypyridine | ClC1=NC=C(C=C1)OC1CCCC1 | C10H12ClNO
